US09034866B2
Synthesis of tert-butyl 3-((2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-10-yl)ethynyl)-3-hydroxy-8-azabicyclo[3.2.1]octane-8-carboxylate
This compound was prepared according to a procedure similar to that described in Procedure E. In a solution of 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (300 mg, 1.0 mmol) in acetonitrile (6 mL) and triethylamine (3 mL) were added Pd(PPh3)2Cl2 (70 mg, 0.1 mmol), 3-Ethynyl-3-hydroxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (0.5 g, 2 mmol) and CuI (19 mg, 0.1 mmol). Then the solution was bubbled N2 for 5 min and microwaved for 2 h at 120° C. under nitrogen. The reaction mixture was filtered and the filtrate was purified by column (EtOAc/hexanes 2:1) to afford crude product (0.5 g, 99%). LCMS=479.2 [M+H]+.

reactant | 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 1.0 mmol, 300 mg | BrC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1 | C12H10BrN3O2
reactant | 3-Ethynyl-3-hydroxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 2 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)(O)C#C | C14H21NO3
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.1 mmol, 19 mg | [Cu]I
product | tert-butyl 3-((2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-10-yl)ethynyl)-3-hydroxy-8-azabicyclo[3.2.1]octane-8-carboxylate | 0.5 g, 99% | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C=C3)C#CC3(CC2CCC(C3)N2C(=O)OC(C)(C)C)O)C1 | C26H30N4O5
